US05268501
A mixture of ethyl acetoacetate [VI-1] (260.2 g, 2.0 mol), methyl isobutyl ketone 300 9) and 1-bromo-5-chloropentane [V-1] (311.0 g, 1.68 mol) is heated to 80°-90° C. Thereto is added anhydrous potassium carbonate (300 g), and the mixture is reacted at 80°-90° C. for 12 hours. To the reaction mixture is further added potassium carbonate (341.4 g), and the mixture is reacted for additional 6 hours. After completion of the reaction, the mixture is filtered, and the methyl isobutyl ketone layer is washed with water and concentrated under reduced pressure. The residue (398.6 g) contains ethyl 7-chloro-2-(1-oxoethyl)-heptanoate (content; 70.8 %, yield; 72.6 %), which is purified by column chromatography to give pure ethyl 7-chloro-2-(1-oxoethyl)heptanoate [II-1].

reactant | ethyl acetoacetate | 2.0 mol, 260.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-bromo-5-chloropentane | 1.68 mol, 311.0 g | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 300 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 341.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | ethyl 7-chloro-2-(1-oxoethyl)-heptanoate | yield; 72.6 % | ClCCCCCC(C(=O)OCC)C(C)=O | C11H19ClO3
